US06699853B2
3-Ethoxymethyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole
3-Iodomethyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole (0.5 g) was dissolved in a freshly prepared solution of sodium ethoxide (30 mg of sodium in 7 ml of ethanol), and the mixture was stirred at room temperature for 6 hours.

reactant | 3-Iodomethyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole | 0.5 g | ICC1=NOC(=N1)C=1C=NC=CC1C(F)(F)F | C9H5F3IN3O
reactant | sodium ethoxide | 7 ml, 30 mg | [O-]CC.[Na+]
product | 3-Ethoxymethyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole | C(C)OCC1=NOC(=N1)C=1C=NC=CC1C(F)(F)F | C11H10F3N3O2
